US07091220B2
[(3-Bromo-phenyl)-(7-ethyl-1H-indol-3-yl)-methyl]-dimethyl-amine
The preparation was carried out in accordance with general synthesis instructions 4 from 7-ethylindole and (3-bromo-benzylidene)-dimethyl-ammonium chloride, which had been prepared in accordance with example 24 from 3-bromo-benzaldehyde and dimethylamine.

reactant | 7-ethylindole | C(C)C=1C=CC=C2C=CNC12 | C10H11N
reactant | (3-bromo-benzylidene)-dimethyl-ammonium chloride | [Cl-].BrC=1C=C(C=[N+](C)C)C=CC1
reactant | 3-bromo-benzaldehyde | BrC=1C=C(C=O)C=CC1 | C7H5BrO
reactant | dimethylamine | CNC | C2H7N
product | [(3-Bromo-phenyl)-(7-ethyl-1H-indol-3-yl)-methyl]-dimethyl-amine | BrC=1C=C(C=CC1)C(C1=CNC2=C(C=CC=C12)CC)N(C)C | C19H21BrN2
